US08293917B2
A solution of 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid (1.5 g, 6.3 mmol) in thionyl chloride (18 mL) is warmed to reflux for 1 hour. After cooling to room temperature, the reaction mixture is concentrated in vacuo to afford 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carbonyl chloride as a tan solid (1.6 g, 100%) which is used without further purification.

reactant | 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid | 6.3 mmol, 1.5 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)O | C11H9ClN2O2
reactant | thionyl chloride | 18 mL | S(=O)(Cl)Cl | Cl2OS
product | 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carbonyl chloride | 1.6 g, 100% | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)Cl | C11H8Cl2N2O
